US07259177B2
1.0 g of (cis-3-methoxymethoxycyclohexyl)methanol and 3.3 g of tert-butylbromoacetate are dissolved in 30 ml of toluene, and 0.50 g of tetrabutylammonium hydrogensulfate is added. The suspension is cooled to 10° C. 10 ml of 50% strength NaOH are added to the suspension. The mixture is allowed to warm to room temperature, and after 3 h the aqueous phase is removed and extracted with methyl tert-butyl ether. The combined organic phases are dried over MgSO4 and concentrated. Flash column chromatography on silica gel (heptane/ethyl acetate 10/1->2/1) gives 1.10 g of tert-butyl (cis-3-methoxymethoxycyclohexylmethoxy)acetate as a colorless oil. C15H28O5 (288), LCMS(ESI): 306 (M++H2O).

reactant | (cis-3-methoxymethoxycyclohexyl)methanol | 1.0 g | COCO[C@H]1C[C@H](CCC1)CO | C9H18O3
reactant | tert-butylbromoacetate | 3.3 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | NaOH | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogensulfate | 0.50 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl (cis-3-methoxymethoxycyclohexylmethoxy)acetate | 1.10 g | COCO[C@H]1C[C@H](CCC1)COCC(=O)OC(C)(C)C | C15H28O5
